US04192871
3α,11β-Dihydroxy-6β-methyl-5α-pregnan-20-one
20,20-Ethylenedioxy-3α-hydroxy-6β-methyl-5α-pregnan-11-one (1.36 g) was dissolved in propan-2-ol (90 ml) and a solution of sodium borohydride (500 mg) in water (10 ml) was added. The solution was stirred at 20° overnight and then diluted with water (200 ml). Extraction with chloroform (2×100 ml) gave, on evaporation of the extract, a colourless gum which was dissolved in a mixture of acetone (50 ml) and 2N-hydrochloric acid (5 ml). After 2 hours the solution was diluted with water (100 ml) and extracted with chloroform (2×50 ml). Evaporation of the extract gave a colourless gum which was crystallised from methanol (25 ml) to give the title compound (700 mg), m.p. 211°-213°.

reactant | 20,20-Ethylenedioxy-3α-hydroxy-6β-methyl-5α-pregnan-11-one | 1.36 g | C1OC(C)([C@H]2CC[C@H]3[C@@H]4C[C@H]([C@H]5C[C@@H](CC[C@]5(C)[C@H]4C(C[C@]23C)=O)O)C)OC1 | C24H38O4
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
solvent | propan-2-ol | 90 ml | CC(C)O | C3H8O
solvent | water | 10 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 3α,11β-Dihydroxy-6β-methyl-5α-pregnan-20-one | 700 mg | O[C@H]1C[C@@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)O)C)C | C22H36O3
